US06620839B2
4′-methoxy-3-methyl-1,1′-biphenyl-4-carbonitrile
4-Bromo-2-methylbenzonitrile (4.9 g, 25.0 mmol), Pd(PPh3)4 (578 mg) in benzene (50 mL) and 2.0 M aqueous solution of Na2CO3 (25 mL, 50.0 mmol) was treated with 4-methoxyphenylboronic acid (4.56 g, 30.0 mmol) in ethanol (20 mL) and heated at 75° C. for 17 hours. The mixture was allowed to cool to room temperature and the phases were separated. The aqueous phase was extracted with diethyl ether (3×40 mL). The original benzene layer and the diethyl ether extracts were combined, filtered over celite, dried over sodium sulfate, and filtered. The filtrate was concentrated under reduced pressure and the residue was purified by chromatography over silica using a mixture of hexane/CH2Cl2 (3:1) to provide the title compound as a white powder (5.73 g, 85% yield). 1HNMR (300 MHz, CDCl3) δ2.35 (3H), 3.70 (s, 3H), 6.80-7.50 (m, 7H); MS (DCI) m/z 224 (M+H)+.

reactant | 4-Bromo-2-methylbenzonitrile | 25.0 mmol, 4.9 g | BrC1=CC(=C(C#N)C=C1)C | C8H6BrN
reactant | Na2CO3 | 50.0 mmol, 25 mL | C(=O)([O-])[O-].[Na+].[Na+]
reactant | 4-methoxyphenylboronic acid | 30.0 mmol, 4.56 g | COC1=CC=C(C=C1)B(O)O | C7H9BO3
solvent | benzene | 50 mL | C1=CC=CC=C1 | C6H6
solvent | ethanol | 20 mL | C(C)O | C2H6O
catalyst | Pd(PPh3)4 | 578 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 4′-methoxy-3-methyl-1,1′-biphenyl-4-carbonitrile | 5.73 g, 85% yield | COC1=CC=C(C=C1)C1=CC(=C(C=C1)C#N)C | C15H13NO
